US07754729B2
N-(4-(3-ethynylphenylamino)quinazolin-6-yl)-2-(piperidin-4-ylidene)acetamide
N-(4-(3-ethynylphenylamino)quinazolin-6-yl)-2-(piperidin-4-ylidene)acetamide trifluoroacetate was dissolved in ethyl acetate. The mixture was washed once with saturated Na2CO3 and once with brine, dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo to give the title product. MS (EI) 384 (M+1).

reactant | N-(4-(3-ethynylphenylamino)quinazolin-6-yl)-2-(piperidin-4-ylidene)acetamide trifluoroacetate | FC(C(=O)O)(F)F.C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=C1CCNCC1)=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-(3-ethynylphenylamino)quinazolin-6-yl)-2-(piperidin-4-ylidene)acetamide | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=C1CCNCC1)=O | C23H21N5O
